US08071625B2
To a solution of 3-(2,3-dichlorobenzyl)-1-(2-hydroxyethyl)-1-methylurea (70 mg, 0.27 mmol) in DMF were added DMAP and 4-ethylphenylisocyanate (80 mg, 0.54 mmol). The reaction mixture was stirred overnight. The reaction mixture was concentrated. The resulting residue was purified on RP-HPLC using a mixture of acetonitrile and H2O to give 2-(3-(2,3-dichlorobenzyl)-1-methylureido)ethyl 4-ethylphenylcarbamate (7 mg, 6.5%). LRMS (M+H+) m/z 424.1.

reactant | 3-(2,3-dichlorobenzyl)-1-(2-hydroxyethyl)-1-methylurea | 0.27 mmol, 70 mg | ClC1=C(CNC(N(C)CCO)=O)C=CC=C1Cl | C11H14Cl2N2O2
reactant | 4-ethylphenylisocyanate | 0.54 mmol, 80 mg | C(C)C1=CC=C(C=C1)N=C=O | C9H9NO
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(3-(2,3-dichlorobenzyl)-1-methylureido)ethyl 4-ethylphenylcarbamate | 7 mg, 6.5% | C(C)C1=CC=C(C=C1)NC(OCCN(C(=O)NCC1=C(C(=CC=C1)Cl)Cl)C)=O | C20H23Cl2N3O3
